US09056858B2
Synthesis of 3-[5-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-pyridine-2-sulfonyl]-propionic acid methyl ester (19)
A solution of 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-bromo-pyridin-3-yl)-cyclopropyl]-amide (0.250 g, 0.553 mmol), sodium 3-methoxy-3-oxopropane-1-sulfinate (289 mg, 1.66 mmol) and copper (I) iodide (316 mg, 1.66 mmol) in DMSO (2 mL) is placed in a microwave tube and evacuated and purged with argon three times. The reaction mixture is heated in a microwave at 110° C. for 2 hours, diluted with ethyl acetate (200 mL), washed with saturated aqueous ammonium chloride (4×100 mL), saturated aqueous sodium bicarbonate (100 mL), brine (100 mL), dried over MgSO4, filtered and concentrated. The resulting residue is purified by silica gel chromatography eluting with a gradient of 50-100% ethyl acetate in heptane to afford the title compound as a solid.

reactant | 1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carboxylic acid [1-(6-bromo-pyridin-3-yl)-cyclopropyl]-amide | 0.553 mmol, 0.250 g | BrC1=CC=C(C=N1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F | C21H15BrFN5O
reactant | sodium 3-methoxy-3-oxopropane-1-sulfinate | 1.66 mmol, 289 mg | COC(CCS(=O)[O-])=O.[Na+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 1.66 mmol, 316 mg | [Cu]I
product | 3-[5-(1-{[1-(4-fluoro-phenyl)-1H-pyrazolo[3,4-c]pyridine-4-carbonyl]-amino}-cyclopropyl)-pyridine-2-sulfonyl]-propionic acid methyl ester | COC(CCS(=O)(=O)C1=NC=C(C=C1)C1(CC1)NC(=O)C=1C2=C(C=NC1)N(N=C2)C2=CC=C(C=C2)F)=O | C25H22FN5O5S
